US09376449B2
A mixture of 3-[(3-fluoro-4-methoxyphenyl)hydrazinylidene]piperidin-2-one (a mixture of E and Z isomers) (2.45 g) and formic acid (25.0 mL) was stirred at 100° C. for 1 hour. The reaction mixture was cooled to room temperature, and then water (40.0 mL) was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The insoluble materials were separated by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform:methanol=10:0 to 10:1) to obtain 7-fluoro-6-methoxy-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-1-one (780 mg) as a brown solid.

reactant | 3-[(3-fluoro-4-methoxyphenyl)hydrazinylidene]piperidin-2-one | FC=1C=C(C=CC1OC)NN=C1C(NCCC1)=O | C12H14FN3O2
reactant | formic acid | 25.0 mL | C(=O)O | CH2O2
solvent | water | 40.0 mL | O | H2O
product | 7-fluoro-6-methoxy-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-1-one | 780 mg | FC1=C(C=C2C3=C(NC2=C1)C(NCC3)=O)OC | C12H11FN2O2
